US04846875
Step B: Synthesis of 4-chloro-2-fluoro-5-methylaniline
A solution of 2-chloro-4-fluoro-5-nitrotoluene (30.0 g, 0.158 mole) in glacial acetic acid (150 ml) was added to a 250 ml Parr bottle which contained platinum IV oxide (0.4 g). The Parr bottle was placed on a Parr hydrogenation apparatus and charged with hydrogen. The reaction mixture was allowed to shake until hydrogen absorption ceased. The catalyst was removed by vacuum filtration. The filtrate containing 4-chloro-2-fluoro-5-methylaniline was used in the following step. This reaction was repeated several times.

reactant | 2-chloro-4-fluoro-5-nitrotoluene | 0.158 mole, 30.0 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5ClFNO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | platinum | 0.4 g | [Pt] | Pt
product | 4-chloro-2-fluoro-5-methylaniline | ClC1=CC(=C(N)C=C1C)F | C7H7ClFN
